US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride (0.25 g, 0.6 mmol), N,N-dimethyl glycine hydrochloride (0.13 g, 0.9 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.23 g, 1.2 mmol), 1-hydroxybenzotriazole (0.16 g, 1.2 mmol), 4-dimethylaminopyridine (7.3 mg, 0.06 mmol), triethylamine (0.3 g, 3.0 mmol) and N,N-dimethylformamide (2 mL) in dichloromethane (5 mL) was stirred for 12 h at room temperature. The reaction was quenched with water (5 mL), extracted with ethyl acetate (2×10 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford N-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-2-dimethylamino-acetamide (45 mg, 16%): LC/MS m/e calcd for C25H32N4O3S [M+H]+ 469.62, observed 469.1; 1H NMR (400 MHz, CDCl3) δ ppm 1.17 (m, 2H), 1.45 (m, 2H), 1.53-1.83 (m, 5H, H), 2.10 (m, 1H), 2.24 (m, 1H), 2.44 (s, 6H), 3.01 (s, 3H), 3.17 (s, 2H), 4.26 (t, J=7.8 Hz, 1H), 6.33 (s, 1H), 7.50 (d, J=8.3 Hz, 2H), 7.84 (d, J=8.3 Hz, 2H), 8.17 (d, J=2.1 Hz, 1H), 8.28 (d, J=2.1 Hz, 1H), 9.19 (s, 1H), 10.96 (s, 1H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride | 0.6 mmol, 0.25 g | Cl.C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)N)N1
reactant | N,N-dimethyl glycine hydrochloride | 0.9 mmol, 0.13 g | Cl.CN(CC(=O)O)C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.2 mmol, 0.23 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.2 mmol, 0.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 3.0 mmol, 0.3 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.06 mmol, 7.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-2-dimethylamino-acetamide | 45 mg, 16% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)NC(CN(C)C)=O)N1 | C25H32N4O3S
